US08211925B2
[2-(3,5-Diethoxy-benzoylamino)-thiazol-4-yl]-acetic acid ethyl ester (80 mg, 86%) was prepared from 3,5-diethoxybenzoic acid (52 mg, 0.25 mmol) and ethyl 2-aminothiazol-4-ylacetate (93 mg) following synthetic description A.

reactant | 3,5-diethoxybenzoic acid | 0.25 mmol, 52 mg | C(C)OC=1C=C(C(=O)O)C=C(C1)OCC | C11H14O4
reactant | ethyl 2-aminothiazol-4-ylacetate | 93 mg | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | [2-(3,5-Diethoxy-benzoylamino)-thiazol-4-yl]-acetic acid ethyl ester | 80 mg, 86% | C(C)OC(CC=1N=C(SC1)NC(C1=CC(=CC(=C1)OCC)OCC)=O)=O | C18H22N2O5S
